US07902369B2
1) Manufacture of 5-bromo-1-oxoindane-2-spiro-1′-cyclobutane
100 mg of 5-bromo-1-oxoindane was dissolved in 10 ml of toluene, 0.3 ml of 1,4-dibromobutan and 132 mg of tert-butoxypotassium were added, and the mixture was stirred all night by heating at 130° C. under reflux. The reaction solution was cooled down to room temperature, the solvents were distilled outunder reduced pressure and the residues were separated and purified by silicagel chromatography (ethyl acetate/hexane=1/2) to obtain 71 mg of the above compound as a yellow oily matter.

reactant | 5-bromo-1-oxoindane | 100 mg | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | 1,4-dibromobutan | 0.3 ml | BrCCCCBr | C4H8Br2
reactant | tert-butoxypotassium | 132 mg | C(C)(C)(C)O[K]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-1-oxoindane-2-spiro-1′-cyclobutane | 71 mg | BrC=1C=C2CC3(CCC3)C(C2=CC1)=O | C12H11BrO
